US08030334B2
To a mixture of 3-ethynylpyridine (1.13 g, 11 mmol) and 2-fluoro-4-chloro-6-iodoaniline (2.71 g, 10 mmol) in triethylamine (100 mL) is added PdCl2(PPh3)2 (175 mg, 0.25 mmol) and CuI (95 mg, 0.50 mmol) and the mixture is refluxed for 1 h. The solvent is removed in vacuo and the residue is purified by silica gel flash chromatography (dichloromethane-methanol, 1:0 to 24:1) to give 4-chloro-2-fluoro-6-pyridin-3-ylethynyl-phenylamine. MS (ESI) m/z 247 (M+H)+.

reactant | 3-ethynylpyridine | 11 mmol, 1.13 g | C(#C)C=1C=NC=CC1 | C7H5N
reactant | 2-fluoro-4-chloro-6-iodoaniline | 10 mmol, 2.71 g | FC1=C(N)C(=CC(=C1)Cl)I | C6H4ClFIN
solvent | triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 0.25 mmol, 175 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.50 mmol, 95 mg | [Cu]I
product | 4-chloro-2-fluoro-6-pyridin-3-ylethynyl-phenylamine | ClC1=CC(=C(C(=C1)C#CC=1C=NC=CC1)N)F | C13H8ClFN2
